US06962917B2
(a) 1H-Pyrrolo[3,2-b]pyridin-2-carboxaldehyde
This was prepared from methyl 1H-pyrrolo[3,2-b]pyridin-2-carboxylate (0.1 g) and amine (1d) by the method of Example 16c, (except that the alcohol was stirred with manganese (II) oxide overnight) and used without purification.

reactant | methyl 1H-pyrrolo[3,2-b]pyridin-2-carboxylate | 0.1 g | N1C(=CC2=NC=CC=C21)C(=O)OC | C9H8N2O2
catalyst | manganese (II) oxide | [O-2].[Mn+2]
product | 1H-Pyrrolo[3,2-b]pyridin-2-carboxaldehyde | N1C(=CC2=NC=CC=C21)C=O | C8H6N2O
